US04709085
In Example 4, a flask was charged with 1.0 g of the catalyst described in Example 1, CH2Cl2 (2.5 mL), and styrene (2.5 mL). A solution of ethyl diazoacetate (0.23 g), CH2Cl2 (12.5 mL), and styrene (12.5 mL) was added slowly dropwise and the resulting mixture was stirred for 24 hours. The reaction product was analyzed by gas chromatography and the catalyst recovered by filtration. This process was repeated for a total of ten cycles during which yields of ethyl 2-phenylcyclopropane-carboxylate remained essentially constant at about 91%. The recovered catalyst was dried in vacuo. Duplicate elemental analyses gave copper contents of the recovered catalyst of 1.83 and 1.88%.

reactant | styrene | 2.5 mL | C=CC1=CC=CC=C1 | C8H8
reactant | ethyl diazoacetate | 0.23 g | [N+](=[N-])=CC(=O)OCC | C4H6N2O2
reactant | styrene | 12.5 mL | C=CC1=CC=CC=C1 | C8H8
solvent | CH2Cl2 | 12.5 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 2.5 mL | C(Cl)Cl | CH2Cl2
product | ethyl 2-phenylcyclopropane-carboxylate | C1(=CC=CC=C1)C1C(C1)C(=O)OCC | C12H14O2
